* r2r_dac.cir - r2r_dac_analog, 8-bit R-2R ladder macro (P4 NETLIST MODE).
* A .subckt library, never run directly: tb/*.cir instantiate it.
* Topology: spec/topology.md (standard R-2R, vout at the MSB rung, 2R
* termination to vss at the LSB end, bit k -> buf_20 -> 2R branch -> rung k).
*
* Every resistor is one gf180mcu_fd_pr ppolyf_u unit of the same width.
*   ru_w  unit width (m)            ru_l  unit length (m)
*   rb_l  length of the 'b' (trim) unit of every driven 2R branch (m):
*         shorter than ru_l by the length whose body resistance equals the
*         driver's average Ron at tt (spec: 2R branch = 2R - Ron_nom).
* The termination 2R (xrta/xrtb) has no driver in series, so no trim.
* Values come from sizing/sizing.yaml via the bench's {{SIZING}} .param line;
* the defaults below are the same values so the library also stands alone.
*
* Drivers: gf180mcu_fd_sc_mcu7t5v0__buf_20 (largest buf), pins
* I Z VDD VNW VPW VSS. Built from nfet_05v0/pfet_05v0: at 3.3 V its Ron is
* measured (tt, 27 C, 1 mA) as ~163 ohm pull-down and ~444 ohm pull-up,
* the pull-up rising toward ~1 kohm at 4 mA (velocity/pinch-off).

.param ru_w=2e-6 ru_l=150e-6 rb_l=148.36e-6

.subckt r2r_dac_analog dac_code[7] dac_code[6] dac_code[5] dac_code[4] dac_code[3] dac_code[2] dac_code[1] dac_code[0] vout vdd vss

* switch drivers, bit 7 = MSB
xd7 dac_code[7] d7 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20
xd6 dac_code[6] d6 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20
xd5 dac_code[5] d5 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20
xd4 dac_code[4] d4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20
xd3 dac_code[3] d3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20
xd2 dac_code[2] d2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20
xd1 dac_code[1] d1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20
xd0 dac_code[0] d0 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_20

* 2R branches: dk -(a, full unit)- mbk -(b, trimmed unit)- nk ; n7 = vout
xrb7a d7  mb7 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb7b mb7 vout vss ppolyf_u r_width={ru_w} r_length={rb_l}
xrb6a d6  mb6 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb6b mb6 n6  vss ppolyf_u r_width={ru_w} r_length={rb_l}
xrb5a d5  mb5 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb5b mb5 n5 __floating_xrb5b__ ppolyf_u r_width={ru_w} r_length={rb_l}
xrb4a d4  mb4 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb4b mb4 n4  vss ppolyf_u r_width={ru_w} r_length={rb_l}
xrb3a d3  mb3 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb3b mb3 n3  vss ppolyf_u r_width={ru_w} r_length={rb_l}
xrb2a d2  mb2 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb2b mb2 n2  vss ppolyf_u r_width={ru_w} r_length={rb_l}
xrb1a d1  mb1 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb1b mb1 n1  vss ppolyf_u r_width={ru_w} r_length={rb_l}
xrb0a d0  mb0 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrb0b mb0 n0  vss ppolyf_u r_width={ru_w} r_length={rb_l}

* series R between rungs
xrs6 vout n6 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrs5 n6   n5 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrs4 n5   n4 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrs3 n4   n3 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrs2 n3   n2 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrs1 n2   n1 vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrs0 n1   n0 vss ppolyf_u r_width={ru_w} r_length={ru_l}

* LSB termination 2R to vss (two full units)
xrta n0 mt  vss ppolyf_u r_width={ru_w} r_length={ru_l}
xrtb mt vss vss ppolyf_u r_width={ru_w} r_length={ru_l}

.ends r2r_dac_analog
